US07786132B2
(i) 2-(Methylsulfonyl)-4-(5-(morpholinosulfonyl)thiophen-2-yl)pyrimidine
A mixture of 5-(2-(methylthio)pyrimidin-4-yl)thiophene-2-sulfonyl chloride (200 mg, 0.65 mmol), morpholine (62 mg, 0.72 mmol) and triethylamine (78 mg, 0.78 mmol) in tetrahydrofuran (5 mL) was stirred at rt for 2 days. Water (50 mL) was added and the mixture was extracted with ethyl acetate (3×50 mL). The combined organic layer was washed with brine (50 mL), dried over anhydrous sodium sulfate and filtered. The solvent was evaporated in vacuo and the residue was washed with diethyl ether (2 mL) to give a white solid. The solid was dissolved in 30 mL of acetone-water (1:1) and then oxone (2 g) was added. After stirring at rt for 20 h the mixture was concentrated in vacuo to remove the acetone. The white precipitate was filtered off, washed with water and dried to afford the title compound (186 mg, 73%). MS (M+H)+ 390.

reactant | 5-(2-(methylthio)pyrimidin-4-yl)thiophene-2-sulfonyl chloride | 0.65 mmol, 200 mg | CSC1=NC=CC(=N1)C1=CC=C(S1)S(=O)(=O)Cl | C9H7ClN2O2S3
reactant | morpholine | 0.72 mmol, 62 mg | N1CCOCC1 | C4H9NO
reactant | triethylamine | 0.78 mmol, 78 mg | C(C)N(CC)CC | C6H15N
reactant | oxone | 2 g | OOS(=O)[O-].[K+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | acetone water | 30 mL | CC(=O)C.O
solvent | Water | 50 mL | O | H2O
product | 2-(Methylsulfonyl)-4-(5-(morpholinosulfonyl)thiophen-2-yl)pyrimidine | 186 mg, 73% | CS(=O)(=O)C1=NC=CC(=N1)C=1SC(=CC1)S(=O)(=O)N1CCOCC1 | C13H15N3O5S3
